US08669392B2
With reference to FIG. 3, a preferred embodiment of the invention will be described below, wherein diethyl 2,3-diisopropylsuccinate is obtained. Absolute ethanol and metallic potassium are charged into a reactor R101, or potassium ethoxide and absolute ethanol are charged into the reactor R101, to prepare a solution of potassium ethoxide; ethyl 3-methyl-2-cyanobutyrate is charged into a reactor R102, and then the prepared solution of potassium ethoxide is added thereto at a temperature ranging from −10° C. to 45° C.; upon the completion of the reaction, the reaction mixture is transferred to a reactor R103 and the solvent is removed, then tetrahydrofuran or acetonitirle is added thereto, followed by the addition of ethyl 2-bromoisopentanoate, and then the reaction mixture is heated to reflux; upon the completion of the reaction, the solvent is removed again, the resultant mixture is transferred to a separator R104, water is added thereto to dissolve solids, and the mixture is extracted with diethyl ether or methyl tert-butyl ether; the extract liquor is passed through a drying column T101 so as to be dried, and then is fed to a separating column T102, where diethyl 2,3-diisopropyl-2-cyanosuccinate is separated; the diethyl 2,3-diisopropyl-2-cyanosuccinate is added into a reactor R201, and a 60-90% aqueous solution of sulfuric acid is added dropwish thereto to conduct hydrolysis and decarboxylation reaction; upon the completion of the reaction, the reaction mixture is diluted with water and transferred to a separator R202 to be extracted with methyl tert-butyl ether; the obtained methyl tert-butyl ether extract liquor is charged into a reactor R203, and an aqueous solution of potassium hydroxide is added thereto; then the reaction mixture is transferred to a separator R204 to be separated; an aqueous layer separated is acidized with hydrochloric acid in a reactor R205 to obtain precipitates; the precipitates are centrifugally dried in a centrifuge C201, and then dried to afford 2,3-diisopropylsuccinic acid; the 2,3-diisopropylsuccinic acid and absolute ethanol are charged into a reactor R301, and a catalytic amount of sulfuric acid is added thereto, to conduct esterification reaction; upon the completion of the reaction, the ethanol is removed, and methyl tert-butyl ether is added into the reaction mixture; the resultant mixture is transferred to a separator R302 and wished with an aqueous solution of sodium bicarbonate; the organic layer is passed through a drying column T301 so as to be dried, and then is fed to a reactor R303, where the solvent is removed to obtain a crude product; the obtained crude product is fed to a separator R304, wished there with an aqueous solution of potassium hydroxide, and extracted with methyl tert-butyl ether; the extract liquor is dried in a drying column T302, and then fed to a reactor R305, where the solvent is removed to obtain diethyl 2,3-diisopropylsuccinate.

reactant | diethyl 2,3-diisopropylsuccinate | C(C)(C)C(C(=O)OCC)C(C(=O)OCC)C(C)C | C14H26O4
reactant | potassium | [K] | K
reactant | potassium ethoxide | [O-]CC.[K+]
reactant | ethyl 3-methyl-2-cyanobutyrate | CC(C(C(=O)OCC)C#N)C | C8H13NO2
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2,3-diisopropylsuccinic acid | C(C)(C)C(C(=O)O)C(C(=O)O)C(C)C | C10H18O4
